US07074801B1
3-Amino-N-cyclopropyl-benzene sulfonamide
A mixture of 2.0 g 3-nitrobenzene sulfonyl chloride, 1.8 g cyclopropyl amine and 50 mL tetrahydrofuran was stirred for 30 minutes under ice-cooling. Water was added to the mixture which was then extracted with ethyl acetate. The organic layer was washed with brine and dried over anhydrous magnesium sulfate. The solvent was evaporated, then the residue was dissolved in 100 mL solvent mixture of tetrahydrofuran and methanol, 50 mg of 10% palladium-carbon was added thereto, and the mixture was hydrogenated at ordinary pressure for 12 hours. The reaction mixture was filtered through Celite, and the solvent was evaporated, whereby 1.5 g of the title compound was obtained as a pale yellow solid.

reactant | 3-nitrobenzene sulfonyl chloride | 2.0 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | cyclopropyl amine | 1.8 g | C1(CC1)N | C3H7N
reactant | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | 3-Amino-N-cyclopropyl-benzene sulfonamide | 1.5 g | NC=1C=C(C=CC1)S(=O)(=O)NC1CC1 | C9H12N2O2S
